US07728031B2
Ethyl 1-((R)-1-phenylethyl)hexahydropyrrolo[2,3-c]pyrrole-5(1H)-carboxylate
A solution of (1-(R)-phenyl-ethylamino)-acetic acid (25.6 g) in 384 mL of toluene was heated to 90° C. To this 170 g (1.1 equivalents) of a 15.84 wt. % solution of allyl-(2-oxo-ethyl)-carbamic acid ethyl ester (U.S. Pat. No. 5,071,999) in toluene, was added over 20 minutes and the mixture was stirred at 90° C. for 14 hours then at 95° C. for 12 hours. After cooling, the product was extracted with 2×115 g of 20% citric acid solution. The citric acid solution was diluted with 205 mL of isopropyl acetate, and the mixture was neutralized with a solution of 51.2 g K2CO3 in 120 g water, and thoroughly shaken. The layers were separated, and the aqueous layer was extracted again with 102 mL of isopropyl acetate. The organic extracts were combined and distilled under reduced pressure to provide an oil which was then diluted with 125 mL of methanol to provide 140 g (100% yield) of the title compound as a 30% by weight solution in methanol.

reactant | (1-(R)-phenyl-ethylamino)-acetic acid | 25.6 g | C1(=CC=CC=C1)[C@@H](C)NCC(=O)O | C10H13NO2
reactant | allyl-(2-oxo-ethyl)-carbamic acid ethyl ester | C(C)OC(N(CC=O)CC=C)=O | C8H13NO3
solvent | toluene | 384 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 125 mL | CO | CH4O
product | Ethyl 1-((R)-1-phenylethyl)hexahydropyrrolo[2,3-c]pyrrole-5(1H)-carboxylate | 140 g, 100% yield | C1(=CC=CC=C1)[C@@H](C)N1CCC2C1CN(C2)C(=O)OCC | C17H24N2O2
